US08871187B2
81 mg (0.3 mmol) of TBTU and 0.1 ml (0.6 mmol) of triethylamine are added to a solution of 42 mg (0.25 mmol) of desamino-histidine hydrochloride in 1 ml of dimethylformamide. After stirring for 10 minutes, 119 mg (0.2 mmol) of (R)-2-amino-1-[3-butoxy-3-(2-fluorophenyl)azetidin-1-yl]-3-(4-methoxyphenyl)propan-1-one trifluoroacetate are added and the reaction medium is stirred for 64 h at ambient temperature. After extraction with a 1/2 heptane/ethyl acetate mixture, the organic phase is washed with 1N aqueous solution of sodium hydroxide and a saturated aqueous solution of sodium chloride, dried over magnesium sulphate, filtered and evaporated. The crude product is purified by silica gel chromatography, elution being carried out with a 90/10 dichloromethane/methanol mixture. 59 mg of N—[(R)-2-[3-butoxy-3-(2-fluoro-phenyl)azetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide are obtained in the form of a white solid with a yield of 57%.

reactant | TBTU | 0.3 mmol, 81 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.6 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | desamino-histidine hydrochloride | 0.25 mmol, 42 mg | Cl.C(CC1=CNC=N1)C(=O)O
reactant | (R)-2-amino-1-[3-butoxy-3-(2-fluorophenyl)azetidin-1-yl]-3-(4-methoxyphenyl)propan-1-one trifluoroacetate | 0.2 mmol, 119 mg | FC(C(=O)O)(F)F.N[C@@H](C(=O)N1CC(C1)(C1=C(C=CC=C1)F)OCCCC)CC1=CC=C(C=C1)OC
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N—[(R)-2-[3-butoxy-3-(2-fluoro-phenyl)azetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]-3-(1H-imidazol-4-yl)propionamide | 59 mg, yield of 57% | C(CCC)OC1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(CCC=1N=CNC1)=O)=O)C1=C(C=CC=C1)F | C29H35FN4O4
